US05418130
8-methoxypsoralen (8-MOP, Aldrich, Milwaukee, Wis., 0.75 g, 3.5 m mol) was dissolved in tetrahydrofuran (THF, 75 mL), Bromine (1.5 mL, 3.5 mmol) in THF (5 mL) was added dropwise. The resulting mixture was stirred at room temperature for overnight. 10% Sodium thiosulfate (5 mL) was added and the solution was basified using conc. aqueous NH4OH, and then extracted twice with chloroform. The organic layer was recrystallized from chloroform to give the product 5-bromo-8-methoxypsoralen (0.75 g, 73.5% yield).

reactant | 8-methoxypsoralen | 0.75 g | COC1=C2C(C=CO2)=CC3=C1OC(=O)C=C3 | C12H8O4
reactant | Bromine | 3.5 mmol, 1.5 mL | BrBr | Br2
reactant | Sodium thiosulfate | 5 mL | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | NH4OH | [NH4+].[OH-]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | THF | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-8-methoxypsoralen | 0.75 g, 73.5% yield | COC1=C2C(=C(C3=C1OC(=O)C=C3)Br)C=CO2 | C12H7BrO4
